US05075464
To a solution of 21 g of dehydroepiandrosterone in a mixture of 175 ml of cyclopropylamine and 150 ml of methanol was added 5 g of molecular sieves The reaction mixture was refluxed for 48 hours, cooled to room temperature, and filtered through magnesium sulfate. The magnesium sulfate was washed with ethyl acetate and the solvent was removed from the combined filtrates under reduced pressure to give 17-(cyclopropylimino)androst-5-en-3β-ol melting at about 187° C.

reactant | dehydroepiandrosterone | 21 g | C[C@]12CC[C@H]3[C@H]([C@@H]1CCC2=O)CC=C4[C@@]3(CC[C@@H](C4)O)C | C19H28O2
reactant | cyclopropylamine | 175 ml | C1(CC1)N | C3H7N
solvent | methanol | 150 ml | CO | CH4O
product | 17-(cyclopropylimino)androst-5-en-3β-ol | C1(CC1)N=C1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C[C@H](CC[C@]3(C)[C@H]1CC2)O | C22H33NO
